US05972946
Preparation of 2-(6-methyl-2-phenyl-4-pyrimidinylamino)-N-methyl-N-phenylacetamide:
The same procedures as Example 1 are repeated except that 4-chloro-6-methyl-2-phenylpyrimidine and 2-amino-N-methyl-N-phenylacetamide are used instead of 4-chloro-5,6-dimethyl-2-phenylpyrimidine and 2-amino-N,N-dipropylacetamide, respectively. The product thus obtained is recrystallized from isopropanol to give the desired compound, m.p. 134-136° C.

reactant | 4-chloro-6-methyl-2-phenylpyrimidine | ClC1=NC(=NC(=C1)C)C1=CC=CC=C1 | C11H9ClN2
reactant | 2-amino-N-methyl-N-phenylacetamide | NCC(=O)N(C1=CC=CC=C1)C | C9H12N2O
reactant | 4-chloro-5,6-dimethyl-2-phenylpyrimidine | ClC1=NC(=NC(=C1C)C)C1=CC=CC=C1 | C12H11ClN2
reactant | 2-amino-N,N-dipropylacetamide | NCC(=O)N(CCC)CCC | C8H18N2O
product | 2-(6-methyl-2-phenyl-4-pyrimidinylamino)-N-methyl-N-phenylacetamide | CC1=CC(=NC(=N1)C1=CC=CC=C1)NCC(=O)N(C1=CC=CC=C1)C | C20H20N4O
